US06579328B2
1-(2,4-Dibromophenoxy)-4-hydroxy-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 12.8 g (74 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 14.23 g (138 mmol) of tert-butyl nitrite, 0.73 g (0.74 mmol) of copper(II) fluoride, 200 mL of pyridine and 8.56 g (92 mmol) of 2,4-dibromoaniline at 65° C. The crude product obtained is purified by vacuum flash chromatography (5% ethyl acetate/heptane) to give 17 g of the title compound as a yellowish solid solid in 63.5% yield. The structure is confirmed by 1Hnmr analysis.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 74 mmol, 12.8 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | tert-butyl nitrite | 138 mmol, 14.23 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,4-dibromoaniline | 92 mmol, 8.56 g | BrC1=C(N)C=CC(=C1)Br | C6H5Br2N
catalyst | copper(II) fluoride | 0.74 mmol, 0.73 g | [Cu](F)F
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,4-Dibromophenoxy)-4-hydroxy-2,2,6,6-tetramethylpiperidine | 17 g, 63.5% yield | BrC1=C(ON2C(CC(CC2(C)C)O)(C)C)C=CC(=C1)Br | C15H21Br2NO2
